US07569337B2
3-Benzothiazol-2-yl-7-(4-methyl-piperazin-1-yl)-chromen-2-one
100 mg (0.28 mmol) 3-Benzothiazol-2-yl-7-piperazin-1-yl-chromen-2-one were dissolved in 15 mL DMF and treated under argon with 183 mg (2 eq.) cesium carbonate, cooled below 5° C. and treated with 1 eq (0.018 mL) Mel. After stirring for 4 h, the reaction mixture is diluted with 100 mL dichloromethane and washed twice with ice-water. The organic phase is evaporated and the residue column chromatographed (silica gel, dichloromethane/EtOH 9:1). Recrystallization from methanol/dichloromethane yields 50 mg (47%) desired product as an orange powder.

reactant | 3-Benzothiazol-2-yl-7-piperazin-1-yl-chromen-2-one | 0.28 mmol, 100 mg | S1C(=NC2=C1C=CC=C2)C=2C(OC1=CC(=CC=C1C2)N2CCNCC2)=O | C20H17N3O2S
reactant | cesium carbonate | 183 mg, 2 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-Benzothiazol-2-yl-7-(4-methyl-piperazin-1-yl)-chromen-2-one | 50 mg, 47% | S1C(=NC2=C1C=CC=C2)C=2C(OC1=CC(=CC=C1C2)N2CCN(CC2)C)=O | C21H19N3O2S
